US07786153B2
(2S)—N-tert-butoxycarbonyl-2-phenylmethylaziridine
(2S)-2-(tert-Butoxycarbonylamino)-3-phenyl-1-propanol (2.0 g, 8.0 mmol) in anhydrous THF (50 mL) at 0° C. under a dry N2 atmosphere was treated with triphenylphosphine (2.5 g, 9.5 mmol) and diethyl azodicarboxylate (1.66 g, 9.5 mmol). The mixture was stirred at 0° C. for 1 hour, allowed to warm to ambient temperature and stirred overnight. The mixture was partitioned between water (50 mL) and ethyl acetate (2×50 mL). The organic layers were combined, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexanes:CH2Cl2, 1:1) to provide the title compound as a colorless oil (1.4 g, 76%). Rf=0.54 (hexanes:ethyl acetate,2:1); 1H NMR (CDCl3) δ 7.32-7.19 (m, 5H), 3.01-2.90 (m, 1H), 2.70-2.56 (m, 2H), 2.30 (m, 1H), 2.03 (m, 1H), 1.44 (s, 9H).

reactant | (2S)-2-(tert-Butoxycarbonylamino)-3-phenyl-1-propanol | 8.0 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=CC=C1 | C14H21NO3
reactant | triphenylphosphine | 9.5 mmol, 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.5 mmol, 1.66 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2S)—N-tert-butoxycarbonyl-2-phenylmethylaziridine | 1.4 g, 76% | C(C)(C)(C)OC(=O)N1[C@H](C1)CC1=CC=CC=C1 | C14H19NO2
